Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
vertical diplopia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Per Admission Note from Dr. ___:

Ms. ___ is a ___ woman with a past medical history of
"pre-cancerous growth on her tongue" s/p resection, left eye
retinal detachment and glaucoma s/p surgery who presents for
evaluation of right submandibular tenderness and intermittent
vertical diplopia.

History gathered from the patient.

Essentially, she was doing well until yesterday evening, when
around 9pm she noticed a tender right submandibular lump.  She
went to bed, otherwise feeling well and when she awoke this
morning it was still there.  She also noted onset of a mild to
moderate right sided and ___ headache.  She has had
several headaches like this before.

For this, she presented to her PCP for evaluation.

While being evaluated, at roughly 1pm this afternoon, she had
sudden onset of of double vision, with the images being super
imposed- one slightly higher than the other, no sideways
deviation recalled.  When she covered one eye or the other, the
double vision resolved.  

Of note, at baseline she has severely limited vision out of her
left eye ___ prior retinal detachment.  The bottom image of her
double vision was thus much blurrier than the top vision.  The
bottom blurry image would disappear when her left eye was
covered.  When covering her right eye, the more clear image 
would
disappear.

This initial double vision lasted perhaps 5 seconds and
spontaneously resolved.  It was otherwise without symptoms. 
Since that initial onset, she has had between ___ more 
episodes
of transient double vision (lasting roughly 5 seconds).   She 
has
never had double vision before prior to today.  She cannot 
recall
her initial symptoms of her retinal detachment last year.

She subsequently presented to the ED for further evaluation. 
here, her headache resolved with Tylenol.  She underwent CT Neck
w/ contrast revealing "Findings suggestive of focal parotitis at
the tail of the right parotid gland  vs adenitis with adjacent
stranding in the submandibular region".  NCHCT was benign.

There has been no recent head trauma or neck manipulation.  No
recent illnesses or other unusual activities.

On neuro ROS, the pt denies loss of vision, blurred vision from
baseline, dysarthria, dysphagia, lightheadedness, vertigo,
tinnitus or hearing difficulty. Denies difficulties producing or
comprehending speech.  Denies focal weakness, numbness,
parasthesiae. No bowel or bladder incontinence or retention.
Denies difficulty with gait.
  
On general review of systems, the pt denies recent fever or
chills.  Denies cough, shortness of breath.  Denies chest pain 
or
tightness, palpitations.  Denies nausea, vomiting, diarrhea,
constipation or abdominal pain."  
 
 
Past Medical History:
- Hx of "precancerous tongue mass" s/p resection roughly ___ years
ago at ___
- Left eye retinal detachment x2, ___ andSeveral surgeries for
this
- Left eye glaucoma
- intermittent headaches without aura, no migraine diagnosis 
 
Social History:
___
Family History:
 - Glaucoma and cataracts.

 
Physical Exam:
ADMISSION PHYSICAL EXAM

Vitals: 97.6 61 148/79 16 100% RA 

General: Awake, cooperative, NAD.
 HEENT: NC/AT
 Neck: Supple. No nuchal rigidity
 Pulmonary: CTABL
 Cardiac: RRR
 Abdomen: soft, nontender, nondistended
 Extremities: no edema, pulses palpated
 Skin: no rashes or lesions noted.
  
 Neurologic:
 -Mental Status: Alert, oriented x 3.  Able to relate history
without difficulty.  Language is fluent with intact repetition
and comprehension.  Normal prosody.  There were no paraphasic
errors.  Speech was not dysarthric.  Able to follow both midline
and appendicular commands.  Attentive, to examiner and task. 
There was no evidence of apraxia or neglect.

 -Cranial Nerves:
 I: Olfaction not tested.
 II: PERRL 3 to 2mm in right eye. Left pupil 3mm, fixed and
irregular., both directly and consentually; brisk bilaterally. 
VF in right eye intact to finger wiggle.  In left eye, there
appears to be an inferior altitudinal defect to finger wiggle. 
Right eye roughly ___, left eye roughly ___ to bedside
testing.
 III, IV, VI: EOMI without nystagmus.  Normal saccades.  No
fatigability with prolonged upgaze.
 V: Facial sensation intact to light touch, pinprick in all
distributions
 VII: There is clear left ptosis (chronic since eye surgeries). 
Otherwise, No facial asymmetry and ___ strength in upper and
lower distributions, bilaterally 
 VIII: Hearing intact to finger-rub bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii bilaterally.
 XII: Tongue protrudes in midline and deviates side to side w/o
difficulty.

-Motor: Normal bulk. No pronator drift bilaterally. No
adventitious movements, such as tremor, noted.  With 30 deltoid
flaps, there is no evidence of fatigability.
  Delt Bic Tri WrE FFl FE IO  IP Quad Ham TA ___ 
 L  ___   ___  ___   5   5    5     5   
 R  ___   ___  ___   5   5    5     5   

-DTRs:
     Bi  Tri  ___  Pat  Ach
 L   3    3     3     3    3
 R   3    3     3     3    3

 - Plantar response was flexor bilaterally.
 - Pectoralis Jerk was present bilaterally, and Crossed 
Adductors
are present bilaterally. 

-Sensory: No deficits to light touch, pinprick, proprioception
throughout. No extinction to DSS.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Unable to tandem. Romberg absent.

DISCHARGE EXAM

II: ___ OD, ___ OS. Prominent L ptosis is chronici.  
PERRL 3 to 2mm in right eye. Left pupil 3mm, surgical fixed .  
VF full in right eye.  Left eye VF poor chronic, able to detect 
light, no finger wiggle III, IV, VI: EOMI without nystagmus.   
No fatigability with prolonged upgaze. L ptosis interferes with 
sustained upgaze and she intermittently endorses 2 vertical 
objects that go away when she refixes.  There is no diplopia in 
any other direction of gaze.

 
Pertinent Results:
___ 03:56PM   GLUCOSE-99 UREA N-16 CREAT-0.8 SODIUM-135 
POTASSIUM-4.3 CHLORIDE-102 TOTAL CO2-23 ANION GAP-14
___ 03:56PM   ALT(SGPT)-15 AST(SGOT)-21 ALK PHOS-52 TOT 
BILI-0.5
___ 03:56PM   CRP-0.9
___ 03:56PM   WBC-5.3 RBC-3.82* HGB-12.5 HCT-38.1 MCV-100* 
MCH-32.7* MCHC-32.8 RDW-13.4 RDWSD-48.9*

___ - NEGATIVE

___ NEGATIVE

MRI/MRA- no abnormality
 
Brief Hospital Course:
Ms. ___ is a ___ woman with a past medical history of 
glaucoma, left eye
retinal detachment with extremely poor left eye vision at 
baseline, tongue mass s/p surgery who was admitted for 
evaluation of headache, right submandibular tenderness and 
intermittent vertical diplopia.  Throbbing headache and 
intermittent vision changes were comorbid and lasted for roughly 
5 hours on day of arrival, though the spells of double vision 
were very brief (5 seconds maximum).  Her exam was otherwise 
benign and on the day after admission it appeared there were no 
abnormalities, although we were able to provoke intermittent 
blurry vision on sustained upgaze that appeared to be the result 
of her chronic left ptosis.

CT/MRI/MRA brain showed no acute process in the brain or CNS 
vessels.  CTA neck DID show she has right parotitis.   Ophtho 
evaluation in ED confirmed known left retinal findings with no 
obvious cause for diplopia.  

She endorses a ___ year history of intermittent headaches with 
some migrainous features and we cannot exclud the possibility of 
migraines with transient visual
symptoms, which may be perceived as diplopia given left eye poor 
visual acuity, glaucoma, and retinal detachment.  More likely 
her baseline left ptosis, which transiently seems to obscure the 
pupil and affect.

We suspect the parotitis is viral.  Workup for 
inflammatory/Sjogren's was unrevealing (negative ___, negative 
Ro, ___ 

She will have outpatient follow-up with Ophtho, PCP, and 
___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. brimonidine 0.2 % ophthalmic TID 
2. Timolol Maleate 0.5% 1 DROP BOTH EYES TID 
3. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP LEFT EYE BID 
4. Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES TID 

 
Discharge Medications:
1. Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES TID 
2. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP LEFT EYE BID 
3. Timolol Maleate 0.5% 1 DROP BOTH EYES TID 
4. brimonidine 0.2 % ophthalmic TID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
possible complicated migraine
glaucoma
left retina detachment 
right parotitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ were admitted to ___ Neurology for evaluation of brief 
episodes of double vision and headache.  We performed an MRI of 
your brain with contrast and that showed no evidence of stroke, 
tumor, or inflammatory lesion causing your symptoms.  
Ophthalmology saw ___ in the Emergency Room and found no acute 
changes to explain your symptoms, however we think that chronic 
eye problems of left eye cataract, glaucoma and chronic eyelid 
droop could be causing your symptoms.  Your vision symptoms were 
brief, but one other potential explanation is that ___ had a 
migraine headache with vision changes.  This would fit with your 
history of recurrent headaches over the past ___ years.  ___ do 
not need to start medications for migraine headaches unless they 
become more severe or frequent. 

Unrelated to your headaches and vision symptoms, our CT scan 
showed that ___ have a viral infection of the right parotid 
gland.  This is likely a viral infection and will improve on its 
own but we have sent bloodwork to assess for alternative causes. 
  We expect that the condition will improve on its own. 

We think ___ can follow up with your Ophthalmologist and primary 
care physician for these problems.  If ___ have further problems 
related to headache and vision change, ___ can arrange a 
Neurology appointment at ___.

Please remain on your prior medications.

It was a pleasure taking care of ___ at ___.

Sincerely, 

Your Neurology Team
 
Followup Instructions:
___